US06646128B2
5-methylsulfonyl-2-[5-phenyl-3-difluoromethyl-1H-pyrazol-1-yl]pyridine
To 12.2 kg of 5-(methylsulfonyl)-2-hydrazinyl-pyridine (64.1 moles) was charged isopropanol (45 gallons) followed by 4,4-difluoro-1-phenyl-1,3-butanedione (12.0 kg, 61.5 moles, 0.96 eq.) as a melt, followed by 45 gallons of isopropanol. The slurry was stirred for 15 minutes, then 3.6 L of concentrated sulfuric acid was added (slight exotherm) (30V of isopropanol total). The reaction was heated to 75° C. and held for 1 hour. The pot was then cooled to 20-30° C. After reaction completion assay, 126 gallons (40V) of water was added (slight exotherm, reaction temp kept below 45° C.) and the reaction product was granulated for 2 hours. The product was filtered on a 36-inch nutche filter dressed with a poly cloth in less than 2 hours. The filter cake was rinsed with an additional 12 gallons (4V) of water, and the cake was blown dry for 12 hours. The product contained 2.2% of compound 6 as the major impurity (by HPLC; retention time 5.1 minutes). Analytical data: HPLC retention time (title compound) 8.4 minutes; MS: 349.36 (calc), M+1=350.1; 1H NMR in CDCl3: 8.75 doublet, (1H), 8.26 Quartet (1H), 7.38 multiplet (3H), 7.36 doublet (2H), 6.70 multiplet (2H), 3.08, Singlet, (3H); 13C NMR in CDCl3: 15.3, 149.3, 147.9, 146.6, 138.1, 130.27, 133.5, 130.0, 129.1, 128.7, 117.9, 113.4, 111.1, 108.1, 107.7, 45.).

reactant | 5-(methylsulfonyl)-2-hydrazinyl-pyridine | 64.1 moles, 12.2 kg | CS(=O)(=O)C=1C=CC(=NC1)NN | C6H9N3O2S
reactant | isopropanol | 45 gallons | C(C)(C)O | C3H8O
reactant | 4,4-difluoro-1-phenyl-1,3-butanedione | 61.5 moles, 12.0 kg, 0.96 eq. | FC(C(CC(=O)C1=CC=CC=C1)=O)F | C10H8F2O2
reactant | isopropanol | 45 gallons | C(C)(C)O | C3H8O
reactant | sulfuric acid | 3.6 L | S(O)(O)(=O)=O | H2O4S
solvent | water | 126 gallons | O | H2O
product | 5-methylsulfonyl-2-[5-phenyl-3-difluoromethyl-1H-pyrazol-1-yl]pyridine | CS(=O)(=O)C=1C=CC(=NC1)N1N=C(C=C1C1=CC=CC=C1)C(F)F | C16H13F2N3O2S
